US07427612B2
(2-Imidazol-1-yl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The title compound was prepared according to the procedure described for example 199 from (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (compound CK) and imidazole (20%, light grey solid, MS (m/e): 479.2 (M+H, 100%)

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (2-Imidazol-1-yl-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | N1(C=NC=C1)C1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H21F3N4O3S
